US06528456B2
4B Preparation of 1-methyl-3-trifluoromethylpyrazol-5-yl-boronic acid
A solution of 1-methyl-3-trifluoromethylpyrazol (2 g) in 10 ml THF is cooled under an inert gas atmosphere to −78° C. A 2 M solution of LDA (9.75 ml) is added dropwise. The mixture is stirred to 10° C. for 1 h and cooled to −75° C. Trimethylborate (5.8 ml) is added and after stirring for 1 h at −75° C. the mixture is stirred overnight at ambient temperature. The resulting reaction solution is added to 10% hydrochloric acid (15 ml). The water phase is extracted 3 times with ethyl acetate and the combined organic phases are washed with water and a saturated sodium chloride solution. The organic phase is dried and evaporated and the residue is crystallized from water. After drying, one obtains the title compound as nearly colorless crystals (1.12 g) of mp. 138° C.

reactant | 1-methyl-3-trifluoromethylpyrazol | 2 g | CN1N=C(C=C1)C(F)(F)F | C5H5F3N2
reactant | LDA | 9.75 ml | [Li+].CC(C)[N-]C(C)C
reactant | Trimethylborate | 5.8 ml | COB(OC)OC | C3H9BO3
reactant | hydrochloric acid | 15 ml | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-methyl-3-trifluoromethylpyrazol-5-yl-boronic acid | CN1N=C(C=C1B(O)O)C(F)(F)F | C5H6BF3N2O2
